US06372759B1
Preparation of N2-(4-t-Butylbenzoyl)-N1-(6-indolinylcarbonyl)-1,2-benzenediamine
To a stirring solution of N2-(4-t-butylbenzoyl)-N1-(6-indolylcarbonyl)-1,2-benzenediamine (0.1 g, 0.24 mmol) in acetic acid (1 mL) was added NaBH3CN (0.046 g, 0.73 mmol). After 2 h, the mixture was diluted with water (10 mL), the pH was basified with conc aq NaHCO3 and the aqueous phase was extracted twice with ethyl acetate. The combined ethyl acetate phase was washed with water and brine, then dried with MgSO4, filtered and concentrated in vacuo to give 70 mg (70%) of white solid.

reactant | N2-(4-t-butylbenzoyl)-N1-(6-indolylcarbonyl)-1,2-benzenediamine | 0.24 mmol, 0.1 g | C(C)(C)(C)C1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)C2=CC=C3C=CNC3=C2)C=C1 | C26H25N3O2
reactant | NaBH3CN | 0.73 mmol, 0.046 g | [BH3-]C#N.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
product | N2-(4-t-Butylbenzoyl)-N1-(6-indolinylcarbonyl)-1,2-benzenediamine | 70 mg, 70% | C(C)(C)(C)C1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)C2=CC=C3CCNC3=C2)C=C1 | C26H27N3O2
